US08445501B2
4-(5-Cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid
4-(5-Cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester (9.53 g; 25.0 mmol) from example A48 is suspended in dioxane (170 mL) and water (100 mL). After addition of LiOH (2.99 g; 125.0 mmol) the reaction mixture is stirred at 100° C. over night. The resulting solution is evaporated to dryness. The residue is dissolved in hot (60-90° C.) water (250 mL) and pH is adjusted to 2-3 by addition of 2M citric acid while still hot. After cooling to ambient temperature the precipitated product is collected by suction filtration, washed with water, ethanol and dried in high vacuo at 50° C. to yield 8.22 g of the title compound as pale yellow solid.

reactant | 4-(5-Cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester | 25.0 mmol, 9.53 g | C(C)OC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C20H19N3O5
reactant | LiOH | 125.0 mmol, 2.99 g | [Li+].[OH-]
solvent | dioxane | 170 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | 4-(5-Cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | 8.22 g | C1(CC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=CN2)C(=O)O | C18H15N3O5
